US05859007
To a stirring solution of 30.3 g (0.23 mol) of 3-methylindazole, prepared as in Part A, in 300 mL of CH3CN is added 35.0 mL (0.25 mol, 1.1 equiv) of Et3N and 5.77 g (47.2 mmol, 0.2 equiv) of DMAP, and the mixture is cooled to 0° C. 60.5 g (0.28 mol, 1.2 equiv) of (BOC)2O in 200 mL CH3CN is added dropwise with stirring at 0° C. and the resultant reaction mixture stirred 3 h at RT. The solvent is removed in vacuo and the crude material partitioned between Et2O (300 mL) and H2O (100 mL). The pH is adjusted to 2.0 with 1N HCl, the organic phase separated, dried (MgSO4), filtered and concentrated in vacuo to an orange oil which is purified by filtration through a pad of silica gel using Hexane/EtOAc 4/1 as eluent. The filtrate is concentrated in vacuo to give 53.4 g of 1-tert-butoxycarbonyl-3-methylindazole as a white solid: 1H NMR (CDCl3, 300 MHz) δ8.15 (d, 1H, J=7.8), 7.67 (d, 1H, J=7.8), 7.56 (dd, 1H, J=7.3, 7.3), 7.35 (dd, 1H, J=7.3, 7.3), 2.62 (s, 3H), 1.77 (s, 9H); TLC Rf =0.66 (EtOAc/Hexane 1/2).

reactant | 3-methylindazole | 0.23 mol, 30.3 g | CC1=NNC2=CC=CC=C12 | C8H8N2
reactant | Et3N | 0.25 mol, 35.0 mL, 1.1 equiv | CCN(CC)CC | C6H15N
reactant | (BOC)2O | 0.28 mol, 60.5 g, 1.2 equiv | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
solvent | CH3CN | 300 mL | CC#N | C2H3N
catalyst | DMAP | 47.2 mmol, 5.77 g, 0.2 equiv | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH3CN | 200 mL | CC#N | C2H3N
product | 1-tert-butoxycarbonyl-3-methylindazole | 53.4 g | C(C)(C)(C)OC(=O)N1N=C(C2=CC=CC=C12)C | C13H16N2O2
